US07560551B2
To 4-phenylthieno[2,3-d]pyridazin-7(6H)-one (0.714 g, 3.13 mmol) was added POCl3 (2.92 ml, 31.3 mmol). A water condenser was attached to the reaction flask and the mixture was heated to reflux for 15.5 hours. The reaction was concentrated and diluted with CH2Cl2 and ice water. The mixture was basified with solid sodium bicarbonate. The organic layers were separated and dried over sodium sulfate. To the residual crude after concentration, 50% EtOAc was added and the solution was filtered through a pad of silica gel. The product fraction were concentrated to yield 7-chloro-4-phenylthieno[3,2-d]pyridazine as a light yellow solid. MS m/z=247 [M+1]+. Calc'd for C12H7N2S: 246.71.

reactant | 4-phenylthieno[2,3-d]pyridazin-7(6H)-one | 3.13 mmol, 0.714 g | C1(=CC=CC=C1)C=1C2=C(C(NN1)=O)SC=C2 | C12H8N2OS
reactant | POCl3 | 31.3 mmol, 2.92 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-4-phenylthieno[3,2-d]pyridazine | ClC=1C2=C(C(=NN1)C1=CC=CC=C1)C=CS2 | C12H7ClN2S
